US08304434B2
Step 6: 2-[(1-methyl-1-{1-[2-(methylsulfonyl)-4-(trifluoromethoxy)benzoyl]piperidin-4-yl}ethyl)sulfonyl]-6-(trifluoromethyl)pyridine
To a 10 ml vial was added 2-(methylsulfonyl)-4-(trifluoromethoxy)benzoic acid (16.9 mg, 0.059 mmol), 2-[(1-methyl-1-piperidin-4-ylethyl)sulfonyl]-6-(trifluoromethyl)pyridine (20 mg, 0.059 mmol), Bop reagent (31.6 mg, 0.071 mmol), diisopropylethyl amine (0.052 ml, 0.297 mmol) and 1 ml dimethylformamide. The resulting solution was stirred at room temperature for 1 hour. It was diluted with 1 m dimethyl sulfoxide, 0.5 ml water and 0.1 ml trifluoroacetic acid. This mixture was loaded on to reverse phase column directly and eluted with water acetonitrile gradient solvent to give the title compound as fluffy white solid after lyophilizing.

reactant | 2-(methylsulfonyl)-4-(trifluoromethoxy)benzoic acid | 0.059 mmol, 16.9 mg | CS(=O)(=O)C1=C(C(=O)O)C=CC(=C1)OC(F)(F)F | C9H7F3O5S
reactant | 2-[(1-methyl-1-piperidin-4-ylethyl)sulfonyl]-6-(trifluoromethyl)pyridine | 0.059 mmol, 20 mg | CC(C)(C1CCNCC1)S(=O)(=O)C1=NC(=CC=C1)C(F)(F)F | C14H19F3N2O2S
reactant | Bop reagent | 0.071 mmol, 31.6 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 0.297 mmol, 0.052 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | water | 0.5 ml | O | H2O
solvent | trifluoroacetic acid | 0.1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 2-[(1-methyl-1-{1-[2-(methylsulfonyl)-4-(trifluoromethoxy)benzoyl]piperidin-4-yl}ethyl)sulfonyl]-6-(trifluoromethyl)pyridine | CC(C)(C1CCN(CC1)C(C1=C(C=C(C=C1)OC(F)(F)F)S(=O)(=O)C)=O)S(=O)(=O)C1=NC(=CC=C1)C(F)(F)F | C23H24F6N2O6S2
